US05292452
4.53 g of magnesium shavings and a granule of iodine are treated with 150 ml of tetrahydrofuran while stirring and gassing with nitrogen. Subsequently, the mixture is treated dropwise within 20 minutes with a solution of 38.4 g of 1-bromo-4-chlorobenzene in 150 ml of tetrahydrofuran and boiled at reflux for 1.25 hours. Thereafter, the reaction mixture is cooled to 0° C. and treated dropwise at 0°-5° C. within 30 minutes with a solution of 35.7 g of 8-[2-(4-oxocyclohexyl)ethyl]-1,4-dioxaspiro[4,5]decane (prepared starting from 4,4'-(1,2-ethane-diyl)bisphenol in analogy to the synthesis of 8-(4-oxocyclohexyl)-1,4-dioxaspiro[4,5]decane described in EP-A-310,067) in 240 ml of tetrahydrofuran. The reaction mixture is stirred without cooling for a further 4 hours, then treated within 10 minutes with 240 ml of 10 percent ammonium chloride solution and extracted with diethyl ether. The ether phases are washed with water, dried over sodium sulphate, filtered and concentrated, there being obtained 1-(4-chlorophenyl)-4-[2-(1,4-dioxa-spiro[4,5]decyl)ethyl]cyclohexanol.

reactant | magnesium | 4.53 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-4-chlorobenzene | 38.4 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | 8-[2-(4-oxocyclohexyl)ethyl]-1,4-dioxaspiro[4,5]decane | 35.7 g | O=C1CCC(CC1)CCC1CCC2(OCCO2)CC1 | C16H26O3
reactant | 4,4'-(1,2-ethane-diyl)bisphenol | C(CC1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C14H14O2
reactant | 8-(4-oxocyclohexyl)-1,4-dioxaspiro[4,5]decane | O=C1CCC(CC1)C1CCC2(OCCO2)CC1 | C14H22O3
reactant | ammonium chloride | 240 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-4-[2-(1,4-dioxa-spiro[4,5]decyl)ethyl]cyclohexanol | ClC1=CC=C(C=C1)C1(CCC(CC1)CCC1OC2(OC1)CCCCC2)O | C22H31ClO3
